US06284438B1
Preparation of Poly(hydroxy styrene-t-butyl methacrylate)
Tert-butyl methacrylate (5.7 g; 40 mmol) and 9.7 g (60 mmol) of acetoxystyrene were dissolved in toluene (80 mL). The reaction product was separated by the same method as that described in example 2, except that 0.67 g of AIBN was added.

reactant | Tert-butyl methacrylate | 40 mmol, 5.7 g | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | acetoxystyrene | 60 mmol, 9.7 g | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | hydroxy styrene t-butyl methacrylate | OC=CC1=CC=CC=C1.C(C(=C)C)(=O)OC(C)(C)C | InChI=1S/C8H14O2.C8H8O/c1-6(2)7(9)10-8(3,4)5;9-7-6-8-4-2-1-3-5-8/h1H2,2-5H3;1-7,9H
